US05650406
2-adamantyl acetic acid:
Aqueous 2.5 N sodium hydroxide solution 433 ml was added to methanol solution 1125 ml of 2-adamantyl acetic acid methyl ester 150 g (0.72 mol) and stirred at room temperature for 6 hours. Reaction mixture was concentrated in vacuo. Aqueous sodium bicarbonate solution was added to the residue and the mixture was washed with ether. Aqueous layer was adjusted to pH 1 by adding 12 N hydrochloric acid, extracted with ethyl acetate and dried with anhydrous sodium sulfate.

reactant | sodium hydroxide | 2.5 N, 433 ml | [OH-].[Na+]
reactant | 2-adamantyl acetic acid methyl ester | 0.72 mol, 150 g | COC(CC1C2CC3CC(CC1C3)C2)=O | C13H20O2
solvent | methanol | 1125 ml | CO | CH4O
product | 2-adamantyl acetic acid | C12C(C3CC(CC(C1)C3)C2)CC(=O)O | C12H18O2
